US05284956
0.03 mol of 1-acrylyl-2-fluoro-4-methoxybenzene was mixed at 0° C. with 0.03 mol of 1-[2-(trans-4-propylcyclohexyl)vinyl]piperidine and held at room temperature for 2 hours. The mixture was then treated with 90 ml of ethanol, 10 ml of water, 0.14 mol of hydroxylamine hydrochloride and 1 ml of concentrated hydrochloric acid and heated to reflux for 8 hours. Subsequently, about 2/3 of the solvent were removed by distillation. The concentrated mixture was diluted with 150 ml of water and adjusted to pH 8 with aqueous sodium carbonate solution. The organic layer was extracted with benzene. The extract was washed neutral with water, dried over sodium sulfate, filtered and concentrated. Chromatographic purification of the resulting residue on silica gel with benzene/hexane (vol. 1:1) gave 2-(4-methoxy-2-fluorophenyl)-5-(trans-4-propylcyclohexyl)pyridine in 20% yield; m.p. (C-N) 56.3° C., cl.p. (N-I) 180.6° C.

reactant | 1-acrylyl-2-fluoro-4-methoxybenzene | 0.03 mol | C(C=C)(=O)C1=C(C=C(C=C1)OC)F | C10H9FO2
reactant | 1-[2-(trans-4-propylcyclohexyl)vinyl]piperidine | 0.03 mol | C(CC)[C@@H]1CC[C@H](CC1)C=CN1CCCCC1 | C16H29N
reactant | hydroxylamine hydrochloride | 0.14 mol | Cl.NO
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 2-(4-methoxy-2-fluorophenyl)-5-(trans-4-propylcyclohexyl)pyridine | 20% yield | COC1=CC(=C(C=C1)C1=NC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC)F | C21H26FNO
